US07915281B2
Under a nitrogen atmosphere, 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5,6-dimethyl-3-nitropyridin-4-amine (25.00 g, 66.35 mmol), toluene (250 mL), triethylamine (11.1 mL, 79.6 mmol), and N,N-bis(4-methoxybenzyl)amine (18.8 g, 73.0 mmol) were combined and heated at reflux for three days. The volatiles were removed under reduced pressure, and the residue was partitioned between ethyl acetate and saturated aqueous potassium carbonate. The ethyl acetate layer was separated and concentrated under reduced pressure. The residue was dissolved in dichloromethane, and the resulting solution was washed sequentially with water and brine. The combined aqueous fractions were extracted with ethyl acetate. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude solid was triturated with ethanol, isolated by filtration, and washed with diethyl ether to provide 37.29 g of N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethyl-3-nitropyridin-2,4-diamine as an orange solid.

reactant | 2-chloro-N-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5,6-dimethyl-3-nitropyridin-4-amine | 66.35 mmol, 25.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC1=CC(=NO1)C1=CC=C(C=C1)F)C)C | C17H14ClFN4O3
reactant | triethylamine | 79.6 mmol, 11.1 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(4-methoxybenzyl)amine | 73.0 mmol, 18.8 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethyl-3-nitropyridin-2,4-diamine | 37.29 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C(=NC(=C1C)C)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)[N+](=O)[O-] | C33H32FN5O5
